US06630076B1
Following the above procedure, the reaction was performed with 3-(3-bromophenoxy)tetrahydropyran (2.57 g), 3-(3 -ethynylphenoxy)tetrahydropyran (2.02 g), triphenylphosphine (105 mg), copper(I) iodide (19 mg) and bis(triphenylphosphine)palladium(II) dichloride (70 mg) in triethylamine (40 ml). The crude dark residue obtained after filtration over silica-gel column is dissolved in a mixture of dichloromethane (10 ml) and methanol (40 ml), then treated with 150 mg pyridinium p-toluene sulphonate at 60° C. for 2 h. The transparent reaction solution was then diluted with 100 ml of ether and washed twice with 40 ml of water then with 50 ml of saturated NaCl solution, dried over MgSO4 and evaporated to dryness to afford 1,2-bis-(3-hydroxyphenyl)ethyne as yellowish solid.

reactant | 3-(3-bromophenoxy)tetrahydropyran | 2.57 g | BrC=1C=C(OC2COCCC2)C=CC1 | C11H13BrO2
reactant | 3-(3 -ethynylphenoxy)tetrahydropyran | 2.02 g | C(#C)C=1C=C(OC2COCCC2)C=CC1 | C13H14O2
reactant | triphenylphosphine | 105 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 19 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1,2-bis-(3-hydroxyphenyl)ethyne | OC=1C=C(C=CC1)C#CC1=CC(=CC=C1)O | C14H10O2
